US05198449
4-(3-Chloropropoxy)benzoic acid 1,1-dimethylethyl ester
A mixture of 4-hydroxybenzoic acid 1,1-dimethylethyl ester (U.S. Pat. No. 3,625,954) (35.0 g, 0.1804 mol), 3-chlorobromopropane (56.81 g, 0.361 mol), and potassium carbonate (69.1 g, 0.5 mol) was heated 20 h at reflux in 600 mL of acetone. The mixture was cooled to room temperature and filtered. The solvent was removed in vacuo to give an oil. The oil was dissolved in hexanes (400 mL), and the solution was chilled in the freezer. A white solid crystallized and was separated. The solid was dried in vacuo for 6 h at room temperature. This procedure furnished 39.46 g (81%) of a white crystalline solid, mp 57.5°-58.5° C.

reactant | 4-hydroxybenzoic acid 1,1-dimethylethyl ester | CC(C)(C)OC(C1=CC=C(C=C1)O)=O | C11H14O3
reactant | 3-chlorobromopropane | 0.361 mol, 56.81 g | ClCCCBr | C3H6BrCl
reactant | potassium carbonate | 0.5 mol, 69.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 600 mL | CC(=O)C | C3H6O
product | 4-(3-Chloropropoxy)benzoic acid 1,1-dimethylethyl ester | 39.46 g, 81% | CC(C)(C)OC(C1=CC=C(C=C1)OCCCCl)=O | C14H19ClO3
